US09062015B2
6′-Bromo-2,3,5,6-tetrahydro-1,2′-bipyridinyl-4-one
5 g (21.11 mmol) of 2,6-dibromopyridine, 2.09 g (21.11 mmol) of piridin-4-one and 7.29 g of potassium carbonate (52.77 mmol) are suspended in 30 ml of DMSO and stirred at 120° C. overnight. Water is then added to the mixture, which is then extracted with EA. The organic phase is washed with a saturated sodium chloride solution, dried over sodium sulfate and evaporated to dryness. The residue formed is purified by means of flash chromatography on silica gel.

reactant | 2,6-dibromopyridine | 21.11 mmol, 5 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | piridin-4-one | 21.11 mmol, 2.09 g | N1=CCC(C=C1)=O | C5H5NO
reactant | potassium carbonate | 52.77 mmol, 7.29 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 6′-Bromo-2,3,5,6-tetrahydro-1,2′-bipyridinyl-4-one | BrC1=CC=CC(=N1)N1CCC(CC1)=O | C10H11BrN2O
